US05538986
Dissolved 2-bromo-2-[6,11-dihydro-11-ethoxy-dibenz[b,e]oxepin-11-yl]-ethanol (14.34 g, 0.0395 mol) in 150 mL of dry toluene. Added tri-n-butyl tin hydride (17.24 g, 15.9 mL, 0.0592 mol) and AIBN (0.324 g, 0.00197 mol). Refluxed under a nitrogen atmosphere for 18 hours. Cooled to room temperature, and evaporated. Dissolved residue in 300 mL of acetonitrile, and washed with hexane to remove tin by-products. Dried acetonitrile solution with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 1:4 ethyl acetate:hexane then 1:3 ethyl acetate:hexane. Combined appropriate fractions, and evaporated to give 6.22 g (55% yield) of 2-[6,11-dihydro-11-ethoxydibenz[b,e]oxepin-11-yl]-ethanol as a colorless oil.

reactant | 2-bromo-2-[6,11-dihydro-11-ethoxy-dibenz[b,e]oxepin-11-yl]-ethanol | 0.0395 mol, 14.34 g | BrC(CO)C1(C2=C(OCC3=C1C=CC=C3)C=CC=C2)OCC | C18H19BrO3
reactant | tri-n-butyl tin hydride | 0.0592 mol, 15.9 mL, 17.24 g | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | AIBN | 0.00197 mol, 0.324 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 2-[6,11-dihydro-11-ethoxydibenz[b,e]oxepin-11-yl]-ethanol | 6.22 g, 55% yield | C(C)OC1(C2=C(OCC3=C1C=CC=C3)C=CC=C2)CCO | C18H20O3
